US05484921
A solution of 1.35 g of potassium iodide in 10 cm3 of water is added with stirring at approximately 20° C. to a suspension of 25 g of N,N-dimethyl-7,8-difluoro-1-methyl-4-oxo-1,2,3,4-tetrahydrobenzo[b][1,8]naphthyridine-3-carboxamide in 1,000 cm3 of ethanol. The suspension is heated to 77° C., and 25 cm3 of 33% by weight hydrogen peroxide are introduced in the course of 20 minutes at this temperature. The reaction mixture is kept refluxing for a further 1 hour 30 minutes and is then cooled to approximately 20° C. 30 cm3 of 1N sodium thiosulphate solution are introduced in the course of 5 minutes at this temperature. The precipitate obtained is drained at approximately 20° C. and washed with twice 60 cm3 off water. The wet product obtained is dried under reduced pressure (20 kPa) at approximately 50° C. 19.5 g of N,N-dimethyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxamide are isolated in the form of a light yellow solid, melting point 324° C.

reactant | potassium iodide | 1.35 g | [I-].[K+]
reactant | N,N-dimethyl-7,8-difluoro-1-methyl-4-oxo-1,2,3,4-tetrahydrobenzo[b][1,8]naphthyridine-3-carboxamide | 25 g | CN(C(=O)C1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)F)=O)C | C16H15F2N3O2
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium thiosulphate | 1N, 30 cm3 | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 10 cm3 | O | H2O
solvent | ethanol | 1,000 cm3 | C(C)O | C2H6O
product | N,N-dimethyl-7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxamide | 19.5 g | CN(C(=O)C=1C(C=2C=C3C(=NC2N(C1)C)C=C(C(=C3)F)F)=O)C | C16H13F2N3O2
